US05650428
The procedure described in Example 1 was repeated, except that dihydropyran (1.46 ml) and ethyl m-aminobenzoate (2.13 g) were successively reacted with (S)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid (3 g) to obtain (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-(tetrahydropyran-2-yloxy)propanamide (2.3 g).

reactant | dihydropyran | 1.46 ml | O1CCCC=C1 | C5H8O
reactant | ethyl m-aminobenzoate | 2.13 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | (S)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid | 3 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CO | C9H10ClNO5S
product | (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-(tetrahydropyran-2-yloxy)propanamide | 2.3 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC(=CC=C1)C(=O)OCC)COC1OCCCC1 | C23H27ClN2O7S
